US06245761B1
Preparation of N-methyl-3-[2-fluoro-5-bromobenzyloxy]propylamine
In a 15 m flask, under a nitrogen atmosphere, N,N-dimethyl-3-[2-fluoro-5-bromobenzyloxy]propylamine (351 mg, 1.21 mmol) was dissolved in dichloroethane (3.5 ml). To this solution ACE•Cl (0.78 ml, 7.26 mmol) was added and the resulting mixture was heated to reflux and maintained at this temperature for 18 hours. The reaction mixture was cooled to ambient temperature, and the solvents were removed in vacuo. The residue was taken up in methanol and refluxed for 1.5 hours. The methanol solution was then partitioned between 1 M potassium carbonate and methylene chloride. The aqueous fraction was back extracted with methylene chloride. The organic fractions were combined and dried over sodium sulfate. The solvents were removed in vacuo. The title intermediate was further purified by liquid chromatography.

reactant | N,N-dimethyl-3-[2-fluoro-5-bromobenzyloxy]propylamine | 1.21 mmol, 351 mg | CN(C)CCCOCC1=C(C=CC(=C1)Br)F | C12H17BrFNO
solvent | dichloroethane | 3.5 ml | ClC(C)Cl | C2H4Cl2
product | N-methyl-3-[2-fluoro-5-bromobenzyloxy]propylamine | CNCCCOCC1=C(C=CC(=C1)Br)F | C11H15BrFNO
